US08871753B2
Step C: N-{3-[3-(3-Aminophenyl)propyl]phenyl}-2,5-dichloropyrimidin-4-amine
To a solution of 3,3′-propane-1,3-diyldianiline (41.0 mg, 0.181 mmol) in N,N-dimethylformamide (1.0 mL), potassium carbonate (72 mg, 0.52 mmol) was added followed by 2,4,5-trichloropyrimidine (20 μL, 0.17 mmol). The mixture was stirred for 2.5 hours and purified by preparative LCMS (pH 10) to give the desired product (21 mg, 32%). LCMS for C19H19Cl2N4 (M+H)+: m/z=373.1.

reactant | 3,3′-propane-1,3-diyldianiline | 0.181 mmol, 41.0 mg | C(CCC=1C=C(N)C=CC1)C=1C=C(N)C=CC1 | C15H18N2
reactant | potassium carbonate | 0.52 mmol, 72 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4,5-trichloropyrimidine | 0.17 mmol, 20 μL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | N-{3-[3-(3-Aminophenyl)propyl]phenyl}-2,5-dichloropyrimidin-4-amine | 21 mg, 32% | NC=1C=C(C=CC1)CCCC=1C=C(C=CC1)NC1=NC(=NC=C1Cl)Cl | C19H18Cl2N4
